US03968243
2-phenylethylamine (2.4 g.), N,N',S-trimethylisothiourea hydriodide (4.92 g.) and ethanol (70 ml.), were boiled together under reflux for eight hours; methyl mercaptan was evolved. The resulting solution was evaporated to dryness and the residue recrystallised from methanol/ether mixture to yield N,N'-dimethyl-N"-2-phenylethylguanidine hydriodide, melting point 156°-160°C.

reactant | 2-phenylethylamine | 2.4 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | N,N',S-trimethylisothiourea hydriodide | 4.92 g | I.CNC(SC)=NC
reactant | methyl mercaptan | CS | CH4S
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N,N'-dimethyl-N"-2-phenylethylguanidine hydriodide | I.CNC(=NCCC1=CC=CC=C1)NC | InChI=1S/C11H17N3.HI/c1-12-11(13-2)14-9-8-10-6-4-3-5-7-10;/h3-7H,8-9H2,1-2H3,(H2,12,13,14);1H
